US07932271B2
N-[5-Chloro-4-[(4-chlorophenylsulfonyl)(5-cyano-2-fluorophenyl)methyl]pyridin-2-yl]methanesulfonamide
After N-[5-chloro-4-[(4-chlorophenylsulfonyl)(5-cyano-2-fluorophenyl)methyl]pyridin-2-yl]-N-(methylsulfonyl)methanesulfonamide (80 mg, 0.11 mmol) was dissolved in tetrahydrofuran (3 ml), a tetrahydrofuran solution (1.0M, 0.15 ml, 0.15 mmol) of tetrabutylammonium fluoride was added to the resulting solution at 0° C. The resulting mixture was stirred at room temperature for 1 hour. The residue obtained by concentrating the reaction mixture under reduced pressure was subjected to silica gel chromatography. The fraction obtained from the n-hexane:ethyl acetate=2:1 eluate was concentrated under reduced pressure to afford a white solid. The resulting white solid was washed with ether to give the title compound (32 mg, 0.06 mmol, 46%) as a white powder.

reactant | N-[5-chloro-4-[(4-chlorophenylsulfonyl)(5-cyano-2-fluorophenyl)methyl]pyridin-2-yl]-N-(methylsulfonyl)methanesulfonamide | 0.11 mmol, 80 mg | ClC=1C(=CC(=NC1)N(S(=O)(=O)C)S(=O)(=O)C)C(C1=C(C=CC(=C1)C#N)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C21H16Cl2FN3O6S3
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.15 mmol, 1.0M, 0.15 ml | O1CCCC1 | C4H8O
product | N-[5-Chloro-4-[(4-chlorophenylsulfonyl)(5-cyano-2-fluorophenyl)methyl]pyridin-2-yl]methanesulfonamide | 0.06 mmol, 32 mg, 46% | ClC=1C(=CC(=NC1)NS(=O)(=O)C)C(C1=C(C=CC(=C1)C#N)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C20H14Cl2FN3O4S2
